US07495001B2
In analogy to the procedures described in example 5C] and 5D], 3-(4-hydroxy-naphthalen-1-yl)-propionic acid ethyl ester [Helvetica Chimica Acta (2001), 84(8), 2198-2211] was reacted with 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine (example 4G]) to give 3-{4-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-naphthalen-1-yl}-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as light pink solid.

reactant | 3-(4-hydroxy-naphthalen-1-yl)-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C2=CC=CC=C12)O)=O | C15H16O3
reactant | 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C14H11ClF3N
product | 3-{4-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-naphthalen-1-yl}-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C2=CC=CC=C12)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C29H26F3NO3
